US07632838B2
tert-butyl 4-[3-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]piperidine-1-carboxylate
To a solution of (R)-tert-butyl 4-(3-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (620 mg, 1.06 mmol) in MeOH (50 mL) was added Pd/C (˜100 mg). The mixture was purged with nitrogen and then stirred under H2 balloon at room temperature for 2 h. The reaction mixture was filtered through Celite and concentrated. The crude product was purified by SiO2 gel column eluted with hexanes/EtOAc to give the titled compound as a light yellow solid (569 mg, 92%). HRMS: calcd for C28H35F4N3O4S+H+, 586.23572. found (ESI-FTMS, [M+H]1+), 586.23585.

reactant | (R)-tert-butyl 4-(3-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.06 mmol, 620 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1C=C(C=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C28H33F4N3O4S
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | ˜100 mg | [Pd] | Pd
product | tert-butyl 4-[3-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]piperidine-1-carboxylate | 569 mg, 92% | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C28H35F4N3O4S
